US05149860
a) Preparation of phytol imidazolide
18 g (0.11 mol) of carbonyldiimidazole are solubilized in 180 cm3 of dichloromethane, and 29.6 g (0.1 mol) of phytol, solubilized in 30 cm3 of the same solvent, are then added. The reaction mixture is then stirred overnight at room temperature. After dilution of the medium with 200 cm3 of dichloromethane, it is washed three times with 100 cm3 of water. The organic phase is dried over sodium sulphate. After removal of the solvent under reduced pressure, 35.2 g of phytol imidazolide, which takes the form of an oil, are isolated.

reactant | carbonyldiimidazole | 0.11 mol, 18 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | phytol | 0.1 mol, 29.6 g | CC(C)CCC[C@@H](C)CCC[C@@H](C)CCC\C(\C)=C\CO | C20H40O
solvent | dichloromethane | 180 cm3 | ClCCl | CH2Cl2
product | phytol imidazolide | [N-]1C=NC=C1.CC(C)CCC[C@@H](C)CCC[C@@H](C)CCC\C(\C)=C\CO | InChI=1S/C20H40O.C3H3N2/c1-17(2)9-6-10-18(3)11-7-12-19(4)13-8-14-20(5)15-16-21;1-2-5-3-4-1/h15,17-19,21H,6-14,16H2,1-5H3;1-3H/q;-1/b20-15+;/t18-,19-;/m1./s1
